US07973051B2
iii) 4-Ethyl-5-ethynyl-thiazol-2-ylamine
To the above prepared 4-ethyl-5-trimethylsilanylethynyl-thiazol-2-ylamine (0.595 g, 2.651 mmol), dissolved in 9 mL of MeOH, was added K2CO3 (0.550 g, 1.5 eq.) and the mixture was stirred for 2 h at ambient temperature. Pouring onto crashed ice/NH4Cl, twofold extraction with ethyl acetate, washing with water and brine, drying over sodium sulfate, and evaporation to dryness, followed by flash chromatography (SiO2, hexane/ethyl acetate=7/3), produced 0.256 g of the title compound as light brown solid.

reactant | 4-ethyl-5-trimethylsilanylethynyl-thiazol-2-ylamine | 2.651 mmol, 0.595 g | C(C)C=1N=C(SC1C#C[Si](C)(C)C)N | C10H16N2SSi
reactant | K2CO3 | 0.550 g, 1.5 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 9 mL | CO | CH4O
product | 4-Ethyl-5-ethynyl-thiazol-2-ylamine | 0.256 g | C(C)C=1N=C(SC1C#C)N | C7H8N2S
